Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
simvastatin / Ezetimibe / lovastatin / Pravachol / Advair Diskus
 
Attending: ___.
 
Chief Complaint:
Disorientation
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ female with a history of asthma, GERD, 
and HTN who presents with cognitive issues.

Ms. ___ initially presented to the ED with shortness of breath 
and chest discomfort. She states she awoke this morning with 
chest pain at 0600, described as chest tightness lasting a few 
hours and resolving spontaneously worse with exertion, no SOB. 
Did not take anything for it. She said it feels like her asthma. 
She denies cough, congestion, hemoptysis, lower extremity 
swelling, or fevers. In the ED VS were WNL, troponins were 
negative, EKG was not suggestive of infection, and CXR did not 
suggest pneumonia. Physical exam was without wheezing. Her 
symptoms resolved without intervention.

However, it was apparent that the patient's recollection of 
events was not accurate. Her family was present and stated that 
the patient has been demonstrating forgetfulness since ___ 
and has been misplacing things. For the past few weeks she has 
also been talking about events that have not actually occurred. 
The family and PCP have been concerned about dementia, but a 
formal diagnosis has not been made. In the ED her urine had WBCs 
and bacteria, but the patient denies any urinary symptoms.

ROS: A ___ review of systems was obtained and was otherwise 
negative with limitations as mentioned above

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Astham, GERD, HTN
Knee surgery, shoulder surgery, foot surgery
 
Social History:
___
Family History:
Family members with HTN
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
CV: Heart regular, no murmur, No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is ___
GI: Abdomen soft, ___ to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, face symmetric, gaze conjugate with EOMI, speech 
fluent, moves all limbs, sensation to light touch intact 
throughout, ___ intact. ___ strength in upper and lower 
extremities, 2+ patellar reflexes.
MiniCOG: ___ object immediately, ___ objects recalled at 5 min. 
Left side of clock with duplication of numbers. Unable to place 
clock hands for stated time
PSYCH: Calm mood

 
Pertinent Results:
___ 09:00AM BLOOD ___ 
___ Plt ___
___ 09:00AM BLOOD ___ 
___ Im ___ 
___
___ 09:00AM BLOOD ___ 
___
___ 02:50PM BLOOD cTropnT-<0.___ female with a history of asthma, GERD, and HTN who 
presents with cognitive issues.

ACUTE/ACTIVE PROBLEMS:
# Neurocognitive disorder: From talking with the patient's son 
and daughter, her progressive changes from ___ are 
concerning for dementia. Hypothyroidism and vitamin B12 
deficiencies are possible. UTI could be contributing, but this 
had been a gradual change over the past several months. The 
timing of change is not consistent with CJD. The patient was 
initially admitted for workup and treatment of UTI. However the 
patient strongly voiced a desire to leave, got herself dressed, 
and attempted to walk out. As her current presentation is 
concerning for dementia without other etiologies or more rapidly 
progressive etiologies requiring inpatient diagnostic workup, 
the family decided to take the patient back home tonight with 
them rather than subject her to a disorientation experience 
requiring 1:1 sitter and potentially antipsychotics or 
restraints. They will follow up with her PCP urgently to pursue 
neuropsychiatric testing. They had already been looking into 
living facilities.
Transitional issues:
[ ] F/U TSH, B12, urine culture
[ ] Outpatient neuropsychiatric testing

#UTI: U/A with WBC and bacteria though patient without urinary 
symptoms. Received ceftriaxone in ED. Will treat with 3 days of 
Bactrim DS BID in case a UTI is contributing to her cognitive 
situation

CHRONIC/STABLE PROBLEMS:
# GERD: Discontinue omeprazole due to possible effects on 
cognition

#HTN: Continue home nifedipine and metoprolol

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 
RX ___ 800 ___ mg 1 tablet(s) by 
mouth Twice daily Disp #*6 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UTI
Concern for neurocognitive disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ for a possible urinary tract 
infection. We started you on antibiotics. A urine culture is 
pending. We are also checking your thyroid function and your 
vitamin B12 level.

Instructions:
- Take Bactrim DS one tablet twice daily for 3 days starting 
tomorrow
- Follow up with your PCP 
- ___ taking omeprazole as research suggests it might impair 
memory
 
Followup Instructions:
___